US06822100B2
The crude 6-hydroxyindole and N-phenyltrifluoromethanesulfonimide (3.93 g, 11.00 mmol) were dissolved in methylene chloride and cooled to 0° C. Triethylamine (1.20 g, 12.00 mmol) was added and the reaction allowed to warm to room temperature and stirred for 16 h. TLC analysis showed complete conversion to product. The reaction was washed with 1 N HCl, 2 M K2CO3, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give 6-trifluoromethanesulfonyl-1H-indole as an oil which solidified on standing. This material was used directly for the next reaction.

reactant | 6-hydroxyindole | OC1=CC=C2C=CNC2=C1 | C8H7NO
reactant | N-phenyltrifluoromethanesulfonimide | 11.00 mmol, 3.93 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Triethylamine | 12.00 mmol, 1.20 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-trifluoromethanesulfonyl-1H-indole | FC(S(=O)(=O)C1=CC=C2C=CNC2=C1)(F)F | C9H6F3NO2S
